US07842810B2
7-Fluoro-3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde
4-Ethoxycarbonylmethylsulfanyl-2-fluoro-5-nitro-benzoic acid ethyl ester. To a solution of 2,4-difluoro-5-nitro-benzoic acid ethyl ester (7.0 g, 0.030 mol) in CH2Cl2 (125 mL) was added Et3N (5.0 mL, 36 mmol) at 0° C. Following the addition of ethyl 2-mercaptoacetate (3.30 mL, 30.3 mmol), the solution was warmed to RT and stirred for 18 h. The reaction mixture was partitioned between H2O and CH2Cl2 (400 mL). The organic layer was washed with 0.05 M HCl (200 mL), brine (200 mL), dried (MgSO4), filtered and concentrated to provide 9.6 g (96%) of the title compound as a tan solid. MS (ESI): exact mass calculated for C13H14FNO6S, 331.05; m/z not found. 1H NMR (500 MHz, CDCl3): 8.88 (d, J=6.9, 1H), 7.14 (d, J=11.4, 1H), 4.41 (q, J=7.2, 2H), 4.29 (q, J=7.2, 2H), 3.75 (s, 2H), 1.40 (t, J=7.2, 3H), 1.29 (t, J=7.2, 3H).

reactant | 4-Ethoxycarbonylmethylsulfanyl-2-fluoro-5-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C(=C1)[N+](=O)[O-])SCC(=O)OCC)F)=O | C13H14FNO6S
reactant | 2,4-difluoro-5-nitro-benzoic acid ethyl ester | 0.030 mol, 7.0 g | C(C)OC(C1=C(C=C(C(=C1)[N+](=O)[O-])F)F)=O | C9H7F2NO4
reactant | Et3N | 36 mmol, 5.0 mL | CCN(CC)CC | C6H15N
reactant | ethyl 2-mercaptoacetate | 30.3 mmol, 3.30 mL | SCC(=O)OCC | C4H8O2S
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 9.6 g, 96% | FC1=CC2=C(NC(CS2)=O)C=C1C=O | C9H6FNO2S
